US07030200B2
Synthesis of 2-Methyl-2-(2,4,6-triisopropylphenylthio)propanal
To a suspension of KH (383 mg, 9.5 mmol, Aldrich; washed with hexanes to remove oil and dried in vacuum) in THF (10 mL) was added dropwise isobutyric aldehyde (0.79 mL, 8.7 mmol, Aldrich) in THF (3 mL). The suspension was stirred for 25 min at RT under Ar (evolution of H2). A solution of 2,4,6-triisopropylphenylsulfenyl chloride (2.35 g, 8.7 mmol) in THF (10 mL) was then added at once. The color immediately changed from red to yellow. The solution was stirred at RT for 10 min, water (20 mL) was added to the reaction mixture under Ar (caution —H2 evolution). The solution was extracted with ethyl ether (2×30 mL), the extracts were dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography on silica gel (13×4.3 cm) in toluene/hexane 1/5 followed by 1/4. Fractions containing the product were evaporated to give a light yellow oil that slowly crystallized, m=2.034 g (68.5%). Rf=0.33 (toluene/hexane 1/3). 1H NMR (CDCl3) 9.34 (s, 1H); 7.00 (s, 2H); 3.85 (septet, 2H; J=6.9 Hz); 2.86 (septet, 1H; J=6.9 Hz); 1.29 (s, 6H); 1.24 (d, 6H; J=6.9 Hz); 1.18 (unresolved broad d, 12H).

reactant | isobutyric aldehyde | 8.7 mmol, 0.79 mL | CC(C)C=O | C4H8O
reactant | 2,4,6-triisopropylphenylsulfenyl chloride | 8.7 mmol, 2.35 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)SCl | C15H23ClS
reactant | water | 20 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-(2,4,6-triisopropylphenylthio)propanal | CC(C=O)(C)SC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C19H30OS
